US06605629B1
Ethyl 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanoate (2.31 g) was dissolved in 20 ml of tetrahydrofuran, to which was added gradually lithium aluminum hydride (269 mg) under ice-cooling. The resulting mixture was stirred for 1 hour. Water (0.5 ml) was carefully added to the reaction mixture. The resulting mixture was filtered, and the residue on the filter paper was washed with ethyl acetate. The filtrate was concentrated to give crystals of 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol. Recrystallization from ethyl acetate gave pale yellow prisms (885 mg, 47%). Melting point 97-98° C.

reactant | Ethyl 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanoate | 2.31 g | FC1=CC=C(C=C1)C=1N=C(OC1CCCC(=O)OCC)N1C(=NC=C1)C | C19H20FN3O3
reactant | lithium aluminum hydride | 269 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-fluorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol | FC1=CC=C(C=C1)C=1N=C(OC1CCCCO)N1C(=NC=C1)C | C17H18FN3O2
